US08378095B2
A solution of tris(dibenzylideneacetone)dipalladium(0) (0.019 g, 0.021 mmol) and 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene (0.011 g, 0.021 mmol) in nBuOH:dioxane (1:1) (5 mL) was stirred at room temperature for 3 minutes. Then 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carbonitrile (0.080 g, 0.281 mmol), tert-butyl 4-((4-aminobenzamido)methyl)piperidine-1-carboxylate (0.250 g, 1.40 mmol) and cesium carbonate (0.108 g, 0.561 mmol) were added and the mixture heated in the microwave for 3 minutes at 140° C. The reaction was diluted with EtOAc and washed with water. The organic phase was passed through a thiol resin cartridge, dried over MgSO4 and the solvent removed in vacuo. The residue was purified by preparative HPLC to afford tert-butyl 4-((4-(4-cyano-2-(2,6-difluorophenyl)oxazol-5-ylamino)benzamido)methyl)piperidine-1-carboxylate (0.035 g, 0.09 mmol, 26%) as a light yellow solid. LCMS (2) Rt: 3.09 min; m/z (ES+) 538.

reactant | 9,9-dimethyl-4,5-bis(diphenylphosphino)xanthene | 0.021 mmol, 0.011 g | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | 5-bromo-2-(2,6-difluorophenyl)oxazole-4-carbonitrile | 0.281 mmol, 0.080 g | BrC1=C(N=C(O1)C1=C(C=CC=C1F)F)C#N | C10H3BrF2N2O
reactant | tert-butyl 4-((4-aminobenzamido)methyl)piperidine-1-carboxylate | 1.40 mmol, 0.250 g | NC1=CC=C(C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C18H27N3O3
reactant | cesium carbonate | 0.561 mmol, 0.108 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | nBuOH dioxane | 5 mL | C(CCC)O.O1CCOCC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.021 mmol, 0.019 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | tert-butyl 4-((4-(4-cyano-2-(2,6-difluorophenyl)oxazol-5-ylamino)benzamido)methyl)piperidine-1-carboxylate | 0.09 mmol, 0.035 g, 26% | C(#N)C=1N=C(OC1NC1=CC=C(C(=O)NCC2CCN(CC2)C(=O)OC(C)(C)C)C=C1)C1=C(C=CC=C1F)F | C28H29F2N5O4
